US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide
1M Hydrochloric acid (5 mL) was added to a solution of 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide (90 mg, 0.16 mmol) in methanol (5 mL) and the mixture stirred at RT for 1 hour. The methanol was removed in vacuo, the residue adjusted to pH6 and then extracted into ethyl acetate (3×50 mL). The combined organics were washed with brine (50 mL), dried (MgSO4), and reduced in vacuo to give a yellow oil which was chromatographed on silica, eluting with 0-5% methanol in ethyl acetate, to give the desired compound as a white foam (28 mg).

reactant | Hydrochloric acid | 1M, 5 mL | Cl | ClH
reactant | 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide | 0.16 mmol, 90 mg | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C | C29H38N6O5Si
solvent | methanol | 5 mL | CO | CH4O
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide | 28 mg | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@H](CO)C | C23H24N6O5
